US07282602B2
Preparation of Diammonium 2,2′-Dithiobis Ethane Sulfonate
A solution of 2,2′-dithiobis ethane sulfonic acid (2.5 g, containing 9% water, 8.1 mmol) in water (1.0 mL) was titrated with ammonium hydroxide aqueous solution (28-30% concentration, Aldrich) until the pH of the reaction solution was adjusted to 7.0. Overall 2.6 mL of ammonium hydroxide was used. Acetone (200 mL) was added to the reaction solution to precipitate the product. The resulting white solid was isolated by filtration and dried under high vacuum to give 2.10 g of product (82% yield). The purity of the product was 98.2% from HPLC analysis.

reactant | 2,2′-dithiobis ethane sulfonic acid | 8.1 mmol, 2.5 g | C(CSSCCS(=O)(=O)O)S(=O)(=O)O | C4H10O6S4
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | ammonium hydroxide | 2.6 mL | [OH-].[NH4+]
reactant | Acetone | 200 mL | CC(=O)C | C3H6O
solvent | water | 1.0 mL | O | H2O
product | Diammonium 2,2′-Dithiobis Ethane Sulfonate | 2.10 g, 82% yield | C(CSSCCS(=O)(=O)[O-])S(=O)(=O)[O-].[NH4+].[NH4+] | InChI=1S/C4H10O6S4.2H3N/c5-13(6,7)3-1-11-12-2-4-14(8,9)10;;/h1-4H2,(H,5,6,7)(H,8,9,10);2*1H3
